US07812022B2
To a solution of N-[3-(2-chloro-pyrimidin-4-ylethynyl)-phenyl]-2,2,2-trifluoro-acetamide (5.0 g) in DMF (40 mL) were added 1-amino-3-fluoropyridinium nitrate (5.4 g) and potassium carbonate (6.0 g). The reaction was kept stirring at rt for 1.5 h. The DMF solution was poured into 5% LiCl solution (60 mL) and extracted with EtOAc (2×30 mL). The combined organic phase were dried (Na2SO4) and concentrated. The crude products were separated through silica gel column chromatography to afford two products. The first to elute was N-{3-[3-(2-chloro-4-pyrimidinyl)-6-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide (2.0 g, 30% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.08 (d, 1H, J=5.49 Hz), 7.45 (d, 1H, J=7.68 Hz), 7.55 (t, 1H, J=7.96 Hz), 7.73-7.79 (m, 1H), 7.83 (d, 1H, J=0.91 Hz), 7.95 (t, 1H, J=1.74 Hz), 8.41 (dd, 1H, J=9.97, 5.76 Hz), 8.49 (d, 1H, J=5.49 Hz), 9.27 (dd, 1H, J=4.30, 2.29 Hz); ES-LC/MS (M+H)+=436.

reactant | N-[3-(2-chloro-pyrimidin-4-ylethynyl)-phenyl]-2,2,2-trifluoro-acetamide | 5.0 g | ClC1=NC=CC(=N1)C#CC=1C=C(C=CC1)NC(C(F)(F)F)=O | C14H7ClF3N3O
reactant | 1-amino-3-fluoropyridinium nitrate | 5.4 g | [N+](=O)([O-])[O-].N[N+]1=CC(=CC=C1)F
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | LiCl | 60 mL | [Li+].[Cl-]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N-{3-[3-(2-chloro-4-pyrimidinyl)-6-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide | 2.0 g, 30% yield | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)F)C=2C=C(C=CC2)NC(C(F)(F)F)=O | C19H10ClF4N5O
